US05344843
PREPARATION OF RAC.-ALPHA-OXO-4-[[2-(1,2,3,4-TETRAHYDRO-2-NAPHTHALENYLOXY)ETHYL]OXY]BENZENEACETIC ACID METHYL ESTER
A stirred mixture of 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester (0.724 g) in dimethylformamide (10 mL) under argon was treated with 55% sodium hydride (0.175 g), stirred for 15 minutes and treated with rac.-2-(1,2,3,4-tetrahydro-2-naphthalenyloxy)ethyl methanesulfonate (1.08 g). The mixture was heated under argon at 60° C. overnight. The cooled mixture was treated with glacial acetic acid (2 drops) and the volatiles were removed under vacuum. The residue was mixed with water and extracted with dichloromethane. The organic layers were dried (Na2SO4), filtered and evaporated to give crude product. The material was purified by HPLC (dichloromethane-hexane; 1:1 plus 2% ethyl acetate) to provide, after crystallization from diethyl ether-hexane, 0.79 g of rac.-alpha-oxo-4-[[2-(1,2,3,4-tetrahydro-2-naphthalenyloxy)ethyl]oxy]benzeneacetic acid methyl ester as a colorless solid, mp 86°-87° C.

reactant | 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester | 0.724 g | COC(C(C1=CC=C(C=C1)O)=O)=O | C9H8O4
reactant | sodium hydride | 0.175 g | [H-].[Na+]
reactant | rac.-2-(1,2,3,4-tetrahydro-2-naphthalenyloxy)ethyl methanesulfonate | 1.08 g | CS(=O)(=O)OCCOC1CC2=CC=CC=C2CC1 | C13H18O4S
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
product | RAC.-ALPHA-OXO-4-[[2-(1,2,3,4-TETRAHYDRO-2-NAPHTHALENYLOXY)ETHYL]OXY]BENZENEACETIC ACID METHYL ESTER | COC(C(C1=CC=C(C=C1)OCCOC1CC2=CC=CC=C2CC1)=O)=O | C21H22O5
